US09169271B2
N-[3-[(4aR,7aS)-2-Amino-4a-fluoro-5,7-dihydro-4H-furo[3,4-d][1,3]thiazin-7a-yl]-4-fluoro-phenyl]-5-cyano-pyridine-2-carboxamide hydrochloride
Scheme 2, step K (amide formation): Oxalyl chloride (60.0 μL, 692 μmol) is added to a solution of dimethylformamide (60.0 μL, 776 μmol) in acetonitrile (4.0 mL), and the resulting reaction is stirred for 16 min 5-Cyanopyridine-2-carboxylic acid (106 mg, 715 μmol) is added to the resulting solution. The reaction is stirred for 33 minutes, and 2.0 mL of this solution is removed via syringe and added drop wise to a solution of (4aR,7aS)-7a-(5-amino-2-fluoro-phenyl)-4a-fluoro-5,7-dihydro-4H-furo[3,4-d][1,3]thiazin-2-amine (110 mg, 347 μmol) in ethanol (2.0 mL) and water (2.0 mL) at 50° C. The resulting solution is heated at 50° C. for 44 minutes followed by purification by SCX columns (methanol to 7 M ammonia in methanol) to give a residue, which is purified again by silica gel flash chromatography, eluting with 7 M ammonia in methanol/dichloromethane (0/10) to 7 M ammonia in methanol/dichloromethane (1/10) to give a residue as the free base of the desired product (120 mg, 83%). This material is dissolved in 5 mL of dichloromethane/methanol (1/1) and is treated with 1 M HCl in ether (300 μL, 0.30 mmol). The sample is concentrated to give the title compound (128 mg, 81.6%). ES/MS (m/e): 416.1 (M+1).

reactant | Oxalyl chloride | 692 μmol, 60.0 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylformamide | 776 μmol, 60.0 μL | CN(C=O)C | C3H7NO
reactant | 5-Cyanopyridine-2-carboxylic acid | 715 μmol, 106 mg | C(#N)C=1C=CC(=NC1)C(=O)O | C7H4N2O2
reactant | (4aR,7aS)-7a-(5-amino-2-fluoro-phenyl)-4a-fluoro-5,7-dihydro-4H-furo[3,4-d][1,3]thiazin-2-amine | 347 μmol, 110 mg | NC=1C=CC(=C(C1)[C@@]12N=C(SC[C@@]1(COC2)F)N)F | C12H13F2N3OS
solvent | acetonitrile | 4.0 mL | C(C)#N | C2H3N
solvent | ethanol | 2.0 mL | C(C)O | C2H6O
solvent | water | 2.0 mL | O | H2O
product | N-[3-[(4aR,7aS)-2-Amino-4a-fluoro-5,7-dihydro-4H-furo[3,4-d][1,3]thiazin-7a-yl]-4-fluoro-phenyl]-5-cyano-pyridine-2-carboxamide hydrochloride | 120 mg, 83% | Cl.NC=1SC[C@]2([C@@](N1)(COC2)C=2C=C(C=CC2F)NC(=O)C2=NC=C(C=C2)C#N)F | InChI=1S/C19H15F2N5O2S.ClH/c20-14-3-2-12(25-16(27)15-4-1-11(6-22)7-24-15)5-13(14)19-9-28-8-18(19,21)10-29-17(23)26-19;/h1-5,7H,8-10H2,(H2,23,26)(H,25,27);1H/t18-,19-;/m1./s1
